US04506368
Isonicotinic acid was refluxed with an excess of thionyl chloride to produce isonicotinic acid chloride. After the excess thionyl chloride was removed, the crude isonicotinic acid (4-pyridinecarboxylic acid) chloride was dissolved in pyridine and an equal number of moles of commercially available (from Aldrich Chemical Co., Inc.) of α-aminoacetophenone hydrochloride was added slowly with mixing. The mixture was then heated on a boiling water bath for 2 hours and then drowned in water to precipitate the product α-isonicotinamidoacetophenone, which was then recrystallized from hexane. Finally, the α-isonicotinamidoacetophenone was refluxed in a mixture of acetic anhydride (40 parts) and 90% phosphoric acid (3 parts) to form 2-(4-pyridyl)-5-phenyloxazole (4PyPO). By starting with 2-pyridinecarboxylic acid or 3-pyridinecarboxylic acid, the above method may be used to produce 2-(2-pyridyl)-5-phenyloxazole (2PyPO) or 2-(3-pyridyl)-5-phenyloxazole (3PyPO), respectively.

reactant | Isonicotinic acid | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | isonicotinic acid chloride | C(C1=CC=NC=C1)(=O)Cl | C6H4ClNO
